US05220042
By using procedures similar to those described in Example 99, except that 1 g of 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3-{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentyl}benzene was reacted with 0.3 ml of ethyl chloroformate in place of oxygen gas, there was obtained 1.3 g of 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3-{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-(ethoxycarbonyl)phenyl]pentyl}benzene. Colorless oily substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3-{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentyl}benzene | 1 g | COC1=C(C(=C(C(=C1CCCC)OCOC)OC)CCCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC)OCOC | C33H52O12
reactant | ethyl chloroformate | 0.3 ml | ClC(=O)OCC | C3H5ClO2
product | 1,4-dimethoxy-2,5-bis(methoxymethoxy)-6-butyl-3-{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-(ethoxycarbonyl)phenyl]pentyl}benzene | 1.3 g | COC1=C(C(=C(C(=C1CCCC)OCOC)OC)CCCCCC1=C(C(=C(C(=C1OCOC)OC)C(=O)OCC)OCOC)OC)OCOC | C36H56O14
